US06992087B2
Preparation of (1R,2S)-1-[(3,6-dimethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3-chloro-2,5-dimethylpyrazine and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.68, 7.32-7.28, 5.59, 4.80, 3.27, 3.09, 2.92, 2.38; HRMS (FAB) calcd for C15H17N3O+H 256.1450, found 256.1460.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 3-chloro-2,5-dimethylpyrazine | ClC=1C(=NC=C(N1)C)C | C6H7ClN2
product | (1R,2S)-1-[(3,6-dimethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | CC=1C(=NC(=CN1)C)N[C@H]1[C@H](CC2=CC=CC=C12)O | C15H17N3O
